US07470684B2
2-(3,4-Dichloro-phenyl)-4-oxo-butyric acid methyl ester
A mixture of 25 g (114 mmol) (3,4-dichloro-phenyl)-acetic acid methyl ester (commercially available), 5.7 g (131 mmol) NaH (55%) and 23.1 g (137 mmol) bromoacetaldehyde dimethylacetal in 80 mL DMF was stirred at room temperature for 3 h. The mixture was poured onto ice/water and extracted with ethyl acetate. The combined organic phases were washed with NaCl aq., dried with Na2SO4 and evaporated to dryness. The residue was dissolved in 250 mL THF and treated with 300 mL 1 N HCl at room temperature for 20 h. Water was added and the mixture was extracted with ethyl acetate. The combined organic phases were washed with NaCl aq., dried with Na2SO4, evaporated to dryness and subjected to column chromatography on silica eluting with a gradient formed from heptane and ethyl acetate. The product containing fractions were evaporated to yield 9.7 g (32%) of the title compound as light yellow oil. MS (m/e): 260.1/262.2 (MH+).

reactant | (3,4-dichloro-phenyl)-acetic acid methyl ester | 114 mmol, 25 g | COC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H8Cl2O2
reactant | NaH | 131 mmol, 5.7 g | [H-].[Na+]
reactant | bromoacetaldehyde dimethylacetal | 137 mmol, 23.1 g | COC(CBr)OC | C4H9BrO2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-(3,4-Dichloro-phenyl)-4-oxo-butyric acid methyl ester | 9.7 g, 32% | COC(C(CC=O)C1=CC(=C(C=C1)Cl)Cl)=O | C11H10Cl2O3
